US04297349
Step C, Methyl-2-methoxycarbonyl-6,6-dimethyl-6-sila-n-hexadecanoate
To a reaction vessel system filled with nitrogen, 964 mg (24.5 mmole) of 61.1% sodium hydride in mineral oil is added, which is washed free of the oil by employing 3 portions of petroleum ether/hexane (1:1). The thus-washed sodium hydride is then suspended in 20 ml of fresh hexane and added in several portions to 8.1 g (22.0 mmoles) of n-decyl-dimethyl-(3-iodopropyl)-silane plus 3.6 g (27.3 mmole) of dimethyl malonate in 25 ml of dry dimethylformamide plus 25 ml of dry petroleum ether, with stirring and cooling at such a rate that hydrogen gas evolution is controlled, and the temperature is at 0° to 10° (new solids form). The reaction mixture is then stirred in a bath at 55° for 2 hrs. and then at 65° for 1 hr. After cooling to room temperature, 2 ml of acetic acid (85%) is added, followed by an excess of water and petroleum ether. The organic layer is separated, washed thrice with water, dried and then concentrated to obtain the crude title product of this step as an oily residue, which is distilled through a Vigreux column to obtain refined title product of this step at 135°-139° at 0.105 mm Hg.

reactant | sodium hydride | 24.5 mmole, 964 mg | [H-].[Na+]
reactant | n-decyl-dimethyl-(3-iodopropyl)-silane | 22.0 mmoles, 8.1 g | C(CCCCCCCCC)[Si](CCCI)(C)C | C15H33ISi
reactant | dimethyl malonate | 27.3 mmole, 3.6 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | Methyl-2-methoxycarbonyl-6,6-dimethyl-6-sila-n-hexadecanoate | COC(C(CCC[Si](CCCCCCCCCC)(C)C)C(=O)OC)=O | C20H40O4Si
